US08304419B2
4-chloro-N-[(4-chloro-3-{[3-cyano-5-(cyclopropylmethyl)phenyl]oxy}-2-fluorophenyl)methyl]-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (0.027 g, 0.046 mmol) dissolved in DCM (3 mL) was treated with TFA (3 mL) at 25° C. overnight with stirring. The reaction mixture was concentrated to dryness and the residue purified by mass-directed HPLC on a SunFire prep C-18 column eluted with 30 to 85% CH3CN/H2O (0.1% formic acid buffer). Appropriate fractions were combined, concentrated to dryness, chased twice with ethanol and twice with toluene to remove residual water to give 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(cyclopropylmethyl)phenyl]oxy}-2-fluorophenyl)methyl]-1H-imidazole-5-carboxamide (0.016 g, 0.035 mmol, 76% yield) as a white solid. 1H NMR (400 MHz, CDCl3) δ ppm 11.31 (br. s., 1H), 7.61 (s, 1H), 7.20-7.36 (m, 4H), 7.14 (s, 1H), 6.87 (s, 1H), 4.72 (d, J=5.91 Hz, 2H), 2.56 (d, J=6.96 Hz, 2H), 0.84-1.03 (m, 1H), 0.53-0.63 (m, 2H), 0.14-0.27 (m, 2H). LC-MS (ES−) m/z 457.14, 459.12 [M−1]. LC-MS (ES+) m/z 459.09, 461.07 [M+H].

reactant | 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(cyclopropylmethyl)phenyl]oxy}-2-fluorophenyl)methyl]-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.046 mmol, 0.027 g | ClC=1N=CN(C1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)CC1CC1)C#N)F)COCC[Si](C)(C)C | C28H31Cl2FN4O3Si
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(cyclopropylmethyl)phenyl]oxy}-2-fluorophenyl)methyl]-1H-imidazole-5-carboxamide | 0.035 mmol, 0.016 g, 76% yield | ClC=1N=CNC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)CC1CC1)C#N)F | C22H17Cl2FN4O2
